US07855298B2
Preparation 57: 1-[3-Fluoro-4-(1H-pyrrol-1-ylmethyl)phenyl]-3-azabicyclo[3.1.0]hexane
To a solution of {[4-(3-azabicyclo[3.1.0]hex-1-yl)-2-fluorophenyl]methyl}amine dihydrochloride in methanol/tetrahydrofuran (anhydrous, 1/1, 5 mL), which was prepared in analogy to the method described in Preparation 54 starting from 1.1 mmol of 2-fluoro-4-[3-(phenylmethyl)-3-azabicyclo[3.1.0]hex-1-yl]benzonitrile and used without further purification, a solution of 2,5-bis(methyloxy)tetrahydrofuran (2.53 mmol), H2SO4 (4.4 mmol) in methanol/tetrahydrofuran (anhydrous, 1/1, 5 mL) was added dropwise over 5 min at room temperature. After standing over night at room temperature a saturated solution of NaHCO3 was slowly added, extraction with 2×15 mL of dichloromethane followed by preparative HPLC purification provided 14 mg of titled compound as an oil (y=5%).

reactant | {[4-(3-azabicyclo[3.1.0]hex-1-yl)-2-fluorophenyl]methyl}amine dihydrochloride | Cl.Cl.C12(CNCC2C1)C1=CC(=C(C=C1)CN)F
reactant | 2-fluoro-4-[3-(phenylmethyl)-3-azabicyclo[3.1.0]hex-1-yl]benzonitrile | 1.1 mmol | FC1=C(C#N)C=CC(=C1)C12CN(CC2C1)CC1=CC=CC=C1 | C19H17FN2
reactant | 2,5-bis(methyloxy)tetrahydrofuran | 2.53 mmol | COC1OC(CC1)OC | C6H12O3
reactant | H2SO4 | 4.4 mmol | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol tetrahydrofuran | 5 mL | CO.O1CCCC1
solvent | methanol tetrahydrofuran | 5 mL | CO.O1CCCC1
product | 1-[3-Fluoro-4-(1H-pyrrol-1-ylmethyl)phenyl]-3-azabicyclo[3.1.0]hexane | 14 mg, 5% | FC=1C=C(C=CC1CN1C=CC=C1)C12CNCC2C1 | C16H17FN2
